US04582823
A mixture of 1.25 g of 6-chloro-2-amino-9-(β-D-ribofuranosyl)purine, 0.899 g of 2,2-diphenylethylamine and 0.503 g of triethylamine is heated under reflux in 30 ml of absolute ethanol under a nitrogen atmosphere for 18 hours. The solvent is evaporated to dryness and residue is treated with 50 ml of cold water. The insoluble organic material is filtered, dried, and purified by medium pressure liquid chromatography on silica gel. The product is eluted with 10% methanol-chloroform. Evaporation of the solvent from the pure fractions affords a colorless solid material. Crystallization from a mixture of CHCl3 -2-propanol (10:1) and hexane affords N6 -(2,2-diphenylethyl)-2-aminoadenosine, mp 134°-137° C.

reactant | 6-chloro-2-amino-9-(β-D-ribofuranosyl)purine | 1.25 g | ClC1=C2N=CN(C2=NC(=N1)N)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C10H12ClN5O4
reactant | 2,2-diphenylethylamine | 0.899 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
reactant | triethylamine | 0.503 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N6 -(2,2-diphenylethyl)-2-aminoadenosine | C1(=CC=CC=C1)C(CNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=C(N1)N)C1=CC=CC=C1 | C24H26N6O4
